US04622318
To a suspension of 7-amino-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylic acid (0.72 g) in dry tetrahydrofuran (10 ml) was added bis(trimethylsilyl)acetamide (1.7 ml) at ambient temperature and the mixture was stirred at the same temperature for an hour. On the other hand, to a solution of 2-(2-aminothiazol-4-yl)-2-(3-thietanyloxyimino)acetic acid (syn isomer) (0.42 g) and diisopropylethylamine in N,N-dimethylformamide (15 ml) was added mesyl chloride (0.25 ml) at -55° C. and the mixture was stirred for half an hour. This solution was added to the above mentioned reaction mixture at -30° C. The mixture was stirred at -30° to 0° C. for an hour and added to a mixture of water and ethyl acetate under stirring. The mixture was adjusted to pH 7 with a saturated aqueous solution of sodium bicarbonate. Aqueous layer was separated, concentrated in vacuo to remove ethyl acetate and subjected to column chromatography on macroporous non-ionic adsorption resin "Diaion HP 20" (20 ml). After the column was washed with water, the elution was carried out with 20% aqueous isopropyl alcohol. The fractions containing the object compound were collected, evaporated to remove isopropyl alcohol under reduced pressure and lyophilized to give 7-[2-(2-aminothiazol-4-yl)-2-(3-thietanyloxyimino)acetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylic acid (anti isomer) (0.2 g).

reactant | 7-amino-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylic acid | 0.72 g | NC1[C@@H]2N(C(=C(CS2)CS\C=C/C=2C=NC=CC2)C(=O)O)C1=O | C15H15N3O3S2
reactant | bis(trimethylsilyl)acetamide | 1.7 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 2-(2-aminothiazol-4-yl)-2-(3-thietanyloxyimino)acetic acid | 0.42 g | NC=1SC=C(N1)C(C(=O)O)=NOC1CSC1 | C8H9N3O3S2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | mesyl chloride | 0.25 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 7-[2-(2-aminothiazol-4-yl)-2-(3-thietanyloxyimino)acetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylic acid | 0.2 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CS\C=C/C=2C=NC=CC2)C(=O)O)C1=O)=NOC1CSC1 | C23H22N6O5S4
